US05767116
A stirred mixture of 2,3-dichloropyridine (20 g), 1-(piperid-4-yl)methylamine (30 g), sodium carbonate (30 g) and 3-methyl-1-butanol (100 ml) was heated at 95° C. for 16 hours, then cooled to ambient temperature, diluted with ethyl acetate (200 ml), and filtered. The solvents were removed in vacua, and the residual oil distilled to give 1-[1-(3-chloropyrid-2-yl)piperid-4-yl]methylamine as a colourless oil (22.2 g), b.p. 115°-140° C. at 0.13 mbar.

reactant | 2,3-dichloropyridine | 20 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | 1-(piperid-4-yl)methylamine | 30 g | N1CCC(CC1)CN | C6H14N2
reactant | sodium carbonate | 30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-methyl-1-butanol | 100 ml | CC(CCO)C | C5H12O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(3-chloropyrid-2-yl)piperid-4-yl]methylamine | 22.2 g | ClC=1C(=NC=CC1)N1CCC(CC1)CN | C11H16ClN3
